US07282588B2
1,1-dimethylethyl 4-{5-[4-[3-(4-aminophenyl)-1-methyl-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-pyrimidinyl}-1-piperazinecarboxylate
To a solution of ammonium chloride (3.00 mmol) in H2O (5 ml) was added iron powder (1.66 mmol) followed by a solution of 1,1-dimethylethyl 4-{5-[4-[1-methyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-pyrimidinyl}-1-piperazinecarboxylate (0.333 mmol) in methanol (10 ml). The resulting mixture was heated at 70° C. for 2 hours, the hot solution filtered through a pad of celite 545 and concentrated to yield the title product as a yellow solid (quant.) which was used crude in the next step. ESMS [M+H]+: 692.2.

reactant | ammonium chloride | 3.00 mmol | [Cl-].[NH4+]
reactant | 1,1-dimethylethyl 4-{5-[4-[1-methyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-pyrimidinyl}-1-piperazinecarboxylate | 0.333 mmol | CN1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C=2C=NC(=NC2)N2CCN(CC2)C(=O)OC(C)(C)C)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C36H35N9O6S
solvent | H2O | 5 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
catalyst | iron | 1.66 mmol | [Fe] | Fe
product | 1,1-dimethylethyl 4-{5-[4-[3-(4-aminophenyl)-1-methyl-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-pyrimidinyl}-1-piperazinecarboxylate | NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)N(C(=C2)C=2C=NC(=NC2)N2CCN(CC2)C(=O)OC(C)(C)C)S(=O)(=O)C2=CC=CC=C2)C | C36H37N9O4S
